US07253286B2
4-(4-(3-Ethylureido)-3-fluorophenoxy)-7-methoxyquinoline-6-carboxylic acid cis-(2-fluorocyclopropyl)amide
4-(4-(3-Ethylureido)-3-fluorophenoxy)-7-methoxyquinoline-6-carboxylic acid (20 mg) was treated with cis-2-fluorocyclopropylamine, triethylamine and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate in the same manner as Example 634, to obtain the title compound (9 mg) as a solid.

reactant | 4-(4-(3-Ethylureido)-3-fluorophenoxy)-7-methoxyquinoline-6-carboxylic acid | 20 mg | C(C)NC(NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)O)OC)C=C1)F)=O | C20H18FN3O5
reactant | cis-2-fluorocyclopropylamine | F[C@@H]1[C@@H](C1)N | C3H6FN
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-(4-(3-Ethylureido)-3-fluorophenoxy)-7-methoxyquinoline-6-carboxylic acid cis-(2-fluorocyclopropyl)amide | 9 mg | F[C@@H]1[C@@H](C1)NC(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NCC)F | C23H22F2N4O4
